US05206312
To a 10 ml toluene solution of 60.1 g (0.5 mole) of 5-vinyl-2-norbornene and 0.30 g of 5% H2PtCl6 in t-amyl alcohol is added 29.6 g of 1,1,3,3-tetramethyldisiloxane (0.22 mole, 90% purity) at 45°-50° C. for 1 hour and 30 minutes. The reaction is complete after keeping the reaction at 55°-60° C. for 6 hours. The mixture is then dissolved in 250 ml methyl ethyl ketone. After washing successively with 100 ml portions of water four times, 65 g of 1,3-bis(5-vinylnorbornyl)-1,1,3,3-tetramethyldisiloxane is obtained after stripping off solvent at 120° C./110 mm Hg. The structure of the product is confirmed by IR and 1H NMR as follows:

reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | 5-vinyl-2-norbornene | 0.5 mole, 60.1 g | C(=C)C1C2C=CC(C1)C2 | C9H12
reactant | 1,1,3,3-tetramethyldisiloxane | 0.22 mole, 29.6 g | C[SiH](O[SiH](C)C)C | C4H14OSi2
reactant | t-amyl alcohol | C(C)(C)(CC)O | C5H12O
solvent | methyl ethyl ketone | 250 ml | C(C)C(=O)C | C4H8O
product | 1,3-bis(5-vinylnorbornyl)-1,1,3,3-tetramethyldisiloxane | 65 g | C(=C)C1C2CCC(C1)(C2)[Si](O[Si](C)(C)C21CCC(C(C2)C=C)C1)(C)C | C22H38OSi2
